US07470710B2
Description 48: (RS)-2-[1-(5-Fluorobenzofuran-2-yl)-methanoyl]-piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-tert-butyl ester
The title compound was prepared from (RS)-2-(methoxymethylcarbamoyl)piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-tert-butyl ester (1.25 g, 3.07 mmol) (WO 01/00214) and 5-fluorobenzofuran (0.42 g, 3.09 mmol) (WO99/51575) by the method of Description 2 as a pale green gum (0.81 g, 55%).

reactant | (RS)-2-(methoxymethylcarbamoyl)piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-tert-butyl ester | 3.07 mmol, 1.25 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)OCC1=CC=CC=C1)C(NCOC)=O | C20H29N3O6
reactant | 5-fluorobenzofuran | 3.09 mmol, 0.42 g | FC=1C=CC2=C(C=CO2)C1 | C8H5FO
product | (RS)-2-[1-(5-Fluorobenzofuran-2-yl)-methanoyl]-piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)OCC1=CC=CC=C1)C(=O)C=1OC2=C(C1)C=C(C=C2)F | C26H27FN2O6
